US05136042
In a 300-ml three-neck flask, 7.9 g (0.5) mole) of 2,4-dimethylthiazole-5carboxylic acid were suspended in 200 ml of xylene and under heating and reflux, phosgene was blown at a flow rate of 340 ml/hr for 12 hours (0.18 mole). After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to obtain 8.2 g of 2,4-dimethylthiazole-5-carboxylic acid chloride. Its purity and yield were 95.0% and 98.0%, respectively.

reactant | 2,4-dimethylthiazole-5carboxylic acid | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4-dimethylthiazole-5-carboxylic acid chloride | 8.2 g | CC=1SC(=C(N1)C)C(=O)Cl | C6H6ClNOS
